*
*******************************************
*
*BAT754A
*
*NXP Semiconductors
*
*Schottky barrier (double) diodes
*
*
*
*
*IFSM = 600mA @ tp = 8,3ms
*VF   = 600mV @ IF = 100mA
*
*
*
*
*
*
*
*
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Cathode     D1        
*Package Pin 2: Cathode     D2      
*Package Pin 3: Anode;Anode D1;D2
*
*
*
*Simulator:SPICE2
*
*******************************************
*#
.SUBCKT BAT754A 1 2
* 
* The resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3.558E+07
D1 1 2 BAT754A
*
.MODEL BAT754A D
+ IS = 2.993E-07
+ N = 1.01
+ BV = 30
+ IBV = 1.5E-06
+ RS = 2.734
+ CJO = 9.228E-12
+ VJ = 0.3033
+ M = 0.4131
+ FC = 0.5178
+ TT = 0
+ EG = 0.69
+ XTI = 2
.ENDS
*

